US05490952
Methallylchloride (3.16 mmol) was weighed into an 8 ml vial, sealed with a septum and placed under argon. THF (2 to 4 ml) was added to the vial and the allyl chloride solution was cooled to -78° C. The allyl chloride was added rapidly via a cannula to a suspension of the zerovalentcopper species prepared according to the procedure of Example 1 (7.96 mmol)at -100° C. and stirred for 10 min. MeLi (6.30 mmol) was added to the newly formed organocopper solution at -90° C. and stirred for 15 min. 1,2-Epoxyhexane (1.01 mmol) was added from a vial to the new organocopper solution at -90° C., warmed to 0° C. over 3 hours, and held at 0° C. for 12 hours. The reaction was quenched with NH4Cl (sat'd), extracted with Et2O (2×50 ml), washed with brine (2×50 ml), and dried over MgSO4. Flash silicagel chromatography, using gradient mixtures of hexane and ethyl acetate, afforded 2-methyl-1-nonen-5-ol (0.68 mmol, Entry 10 in Table III). Rf =0.23 in 9:1 (v/v) hexane and ethyl acetate, respectively (67% yield): IR (neat) 3317, 3070, 3016, 2954, 2931, 2869, 2854, 1647, 1452, 1375, 1126, 1084, 1053, 1036, 1003, 885 cm-1. 1H NMR (360 MHz) 4.72 (bs, 2H), 3.63-3.58 (m, 1H), 2.20-2.05 (m, 2H), 1.74 (s, 3H), 1.68-1.30 (m, 8H), 0.91 (t, J=7.0 Hz, 3H). 13C NMR (50 MHz) 145.9, 110.0, 71.7, 37.2, 35.2, 34.0, 27.8, 22.7, 22.4, 14.0.

reactant | Methallylchloride | 3.16 mmol | C(C(C)=C)Cl | C4H7Cl
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | MeLi | 6.30 mmol | [Li]C
reactant | 1,2-Epoxyhexane | 1.01 mmol | O1CC1CCCC | C6H12O
solvent | THF | 2 to 4 ml | C1CCOC1 | C4H8O
product | 2-methyl-1-nonen-5-ol | 0.68 mmol, 67% yield | CC(=C)CCC(CCCC)O | C10H20O
